US08735424B2
To a solution of 1-(2-chloro-5-nitropyridin-4-yl)ethanone (1.0 equiv.) in acetic acid (0.3 M) was added iron (6.0 equiv.). The solution was vigorously stirred for 4 hours, at which time it was filtered through a celite pad (9 cm×3 inches) eluting with MeOH and then ethyl acetate. The volatiles were removed in vacuo, and the crude material was partitioned between ethyl acetate and Na2CO3(sat.). The organic layer was washed further with Na2CO3(sat.) (3×), with NaCl(sat.), dried over MgSO4, filtered and concentrated yielding 1-(5-amino-2-chloropyridin-4-yl)ethanone (87%). LCMS (m/z): 171.0 (MH+); LC Rt=2.20 min. 1H NMR (CDCl3): δ 9.18 (s, 1H), 7.36 (s, 1H), 2.60 (s, 3H).

reactant | 1-(2-chloro-5-nitropyridin-4-yl)ethanone | 1.0 equiv. | ClC1=NC=C(C(=C1)C(C)=O)[N+](=O)[O-] | C7H5ClN2O3
solvent | acetic acid | 0.3 M | C(C)(=O)O | C2H4O2
catalyst | iron | 6.0 equiv. | [Fe] | Fe
product | 1-(5-amino-2-chloropyridin-4-yl)ethanone | 87% | NC=1C(=CC(=NC1)Cl)C(C)=O | C7H7ClN2O
